US04775671
40 ml of ethanol and 14.0 g (44.9 mmol) of ethyl (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate are added to a solution of 2.21 g (55.2 mmol) of sodium hydroxide in 10 ml of water and the mixture is stirred at boiling temperature for 30 minutes. The mixture is diluted with 40 ml of water and neutralized with 13.8 ml of 4N hydrochloric acid. After evaporation of the ethanol in a water-jet vacuum the suspension is filtered; the filter residue is rinsed with water and dried at 90° in a high vacuum. The product obtained is suspended in 60 ml of N,N-dimethylformamide, 9.40 g (56 mmol) of N,N'-carbonyldiimidazole are added thereto and the mixture is stirred at 60° overnight. The reaction mixture is treated with 3.65 g (49.3 mmol) of acetamidoxime and stirred at 60° for a further 2 hours. The mixture is evaporated to dryness, the residue is dissolved in 50 ml of glacial acetic acid and the solution is heated to 120° for 2.5 hours. The yellow solution is concentrated; the residue is taken up in methylene chloride and washed with a saturated sodium bicarbonate solution. The organic phase is dried over magnesium sulphate, evaporated and there is obtained by recrystallization of the residue from methylene chloride and ethyl acetate (S)-11,12,13,13a-tetrahydro-1-(3-methyl-1,2,4-oxadiazol-5-yl)-9H-imidazo [1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 180°-182°.

reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | ethyl (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 44.9 mmol, 14.0 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)OCC)CCC2 | C17H17N3O3
reactant | sodium hydroxide | 55.2 mmol, 2.21 g | [OH-].[Na+]
reactant | acetamidoxime | 49.3 mmol, 3.65 g | C(C)(N)=NO | C2H6N2O
solvent | water | 10 ml | O | H2O
solvent | water | 40 ml | O | H2O
solvent | hydrochloric acid | 4N, 13.8 ml | Cl | ClH
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | ethyl acetate (S)-11,12,13,13a-tetrahydro-1-(3-methyl-1,2,4-oxadiazol-5-yl)-9H-imidazo [1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | CC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CCC1.C(C)(=O)OCC | InChI=1S/C17H15N5O2.C4H8O2/c1-10-19-16(24-20-10)14-15-13-7-4-8-21(13)17(23)11-5-2-3-6-12(11)22(15)9-18-14;1-3-6-4(2)5/h2-3,5-6,9,13H,4,7-8H2,1H3;3H2,1-2H3/t13-;/m0./s1
